* A dual opamp ngspice model
* file name: TL072-dual.lib
.subckt TL072c 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include TL072.301
XU1A 1in+ 1in- vcc+ vcc- 1out TL072
XU1B 2in+ 2in- vcc+ vcc- 2out TL072
.ends